US03931192
To 250 ml. of anhydrous ether was added 19.3 ml. of a 1.45M solution of n-butyllithium in hexane. The resulting solution was cooled to -68°. Thereafter, there was added 6.55 g. of 4-bromo-6,7-methylenedioxyquinoline dissolved in 200 ml. of anhydrous tetrahydrofuran over a period of 30 minutes with stirring and under a nitrogen atmosphere to afford 6,7-methylenedioxy-4-quinolyllithium. Stirring of the mixture was continued at the same temperature for 30 minutes followed by the addition of a solution of 2.15 g. of a mixture of epimeric, racemic 4,5-erythro-5-ethylquinuclidine-2ε-carboxaldehydes in 250 ml. of ether over a period of one hour. The reaction mixture was stirred at -70° under a nitrogen atmosphere overnight. After quenching with water, the mixture was allowed to warm to room temperature and subsequently was concentrated under reduced pressure. The residue was dissolved in ether. The ethereal solution was washed with water, dried over sodium sulfate and evaporated to dryness to give 6.54 g. of an oil. Chromatography on neutral alumina (Woelm, activity I) with ethyl acetate yielded 2.97 g. of a yellow solid. Subsequent elution with methanol yielded 3.37 g. of a brown oil. This was chromatographed on silica gel preparative plates (20 × 20 × 0.2 cm) with ethyl acetate-triethylamine (97:3) as the solvent mixture. The plates were developed three times. Elution of the lowest major band with methanolchloroform and crystallization of the eluate (510 mg.) from acetone gave racemic 6',7'-methylenedioxy-dihydrocinchonidine, m.p. 232°-233°. Elution of the next higher band with methanolchloroform and crystallization of the eluate (597 mg.) from acetone gave racemic 6',7'-methylenedioxydihydrocinchonine, m.p. 234°-235°.

reactant | ether | CCOCC | C4H10O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-bromo-6,7-methylenedioxyquinoline | BrC1=CC=NC2=CC3=C(C=C12)OCO3 | C10H6BrNO2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 6,7-methylenedioxy-4-quinolyllithium | C1OC=2C=C3C(=CC=NC3=CC2O1)[Li] | InChI=1S/C10H6NO2.Li/c1-2-7-4-9-10(13-6-12-9)5-8(7)11-3-1;/h1,3-5H,6H2;
